US05965555
D1) 1-(3-Hydroxy-3-methyl-4-pentynyl)-3-methyl-7-propylxanthine
A solution of 55.7 g (0.2 mol) of 3-methyl-1-(3-oxobutyl)-7-propylxanthine in a mixture of 200 ml each of dioxane and toluene was added dropwise in 45 minutes to a stirred suspension of 36.8 g (0.4 mol) of lithium acetylide as ethylenediamine complex and 98.6 g (0.4 mol) of anhydrous cerium(III) chloride in a mixture of 500 ml each of dry dioxane and toluene at 50° C. The mixture was then stirred at 50° C. for 7 hours, cooled and, after addition of cold water and acidification with 2 N hydrochloric acid, intensively extracted with chloroform, the extract was washed with water, dried over sodium sulfate and evaporated under reduced pressure, and the residue was purified by filtration through a silica gel column in the eluent chloroform/methanol (50:1), resulting in 35.0 g (58% of theory) of solid, which was recrystallized from ethanol with large losses.

reactant | 3-methyl-1-(3-oxobutyl)-7-propylxanthine | 0.2 mol, 55.7 g | CN1C(N(C(C=2N(C=NC12)CCC)=O)CCC(C)=O)=O | C13H18N4O3
reactant | lithium acetylide | 0.4 mol, 36.8 g | [C-]#[C-].[Li+].[Li+]
reactant | cerium(III) chloride | 0.4 mol, 98.6 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | dioxane | 200 ml | O1CCOCC1 | C4H8O2
reactant | dioxane | 500 ml | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1-(3-Hydroxy-3-methyl-4-pentynyl)-3-methyl-7-propylxanthine | OC(CCN1C(=O)N(C=2N=CN(C2C1=O)CCC)C)(C#C)C | C15H20N4O3
